Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone
 
Attending: ___.
 
Chief Complaint:
High dose methotrexate
 
Major Surgical or Invasive Procedure:
None this hospitalization
 
History of Present Illness:
___ is a ___ ___ speaking male with HIV, 
recently diagnosed high-grade CNS B cell lymphoma (brain stem) 
s/p brain biopsy, temporary external ventricular drain (since 
removed), on high-dose MTX ___ and dexamethasone, recently 
admitted ___ with anal HSV2 infection. He was treated with 
treatment dose of acyclovir for 7 days and has continued 
acyclovir 200mg daily for prophylaxis. At discharge, his 
dexamethasone was tapered from 4mg BID to 4mg daily. The anal 
area has improved in pain and the rash is resolving. He returns 
today for scheduled high-dose MTX. He has no complaints this 
morning. He states that his last high-dose methotrexate was 
tolerated well. He did not experience any nausea, vomitting, 
diarrhea from the chemotherapy. He still complains of persistent 
double vision, which has been improving.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
-- ___ - stereotaxic biopsy of the mass by Dr. ___ 
___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
CAD s/p BMS (___)
HIV on HAART (VL undetectable)
history of pancreatitis ___ HIV medication
Hypertension
Hyperlipidemia
Gastric ulcer
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.

 
Physical Exam:
============================
Admission
============================
Vital Signs: Temperature 97.7 F, blood pressure 110/80, pulse 
80, respiration 18 and oxygen saturation is 98% in room air.  
His measured weight is 184 lbs  
General: well-appearing, pleasant, no distress  
HEENT: well-healing scalp incision right occipital area, no 
tenderness, clear oral pharynx, no vesicular lesions, anicteric 
sclerae  
Neck: no adenopathy  
CV: RRR, normal S1, S2, no murmurs  
Lungs: lungs clear bilaterally  
Abdomen: soft, non-tender, non-distended, no organomegaly  
Perineum: healing vesicles, few open ulcers with clean bases  
Skin: full turgor  
Extremities: 2+ radial and DP pulses, no edema  

Neurological Examination: His mental status is intact.  Cranial 
nerves ___ are intact, no sensory or strength deficits, 
cerebellar function normal, ambulatory without assistance, A and 
O x 3, negative Brudzinsky and Kernig signs, right eye nystagmus 
on horizontal gaze  

==================================
Discharge
==================================
Vital Signs: Temperature is 98.7 F, blood pressure 110/68, pulse 
72, respiration 18 and oxygen saturation 99% in room air  
General: well-appearing, pleasant, no distress  
HEENT: clear oral pharynx, no vesicular lesions, anicteric 
sclerae  
Neck: no adenopathy, PERRL, EOMI  
CV: RRR, normal S1, S2, no murmurs  
Lungs: lungs clear bilaterally  
Abdomen: soft, non-tender, non-distended, no organomegaly  
Perineum: healing vesicles, few open ulcers with clean bases  
Skin: WWP, no rashes  
Extremities: 2+ radial and DP pulses, no edema

Neurological Examination: Mental status is intact. Cranial 
nerves ___ are intact, no sensory or strength deficits, 
cerebellar function normal, ambulatory without assistance, A and 
O x 3.
 
Pertinent Results:
===========================
Admission
===========================
___ 12:00PM BLOOD WBC-6.1 RBC-5.15 Hgb-16.1 Hct-48.0 MCV-93 
MCH-31.1 MCHC-33.5 RDW-13.3 Plt ___
___ 12:00PM BLOOD Glucose-307* UreaN-26* Creat-0.9 Na-129* 
K-5.7* Cl-94* HCO3-21* AnGap-20
___ 04:20PM BLOOD ALT-28 AST-8 LD(LDH)-171 AlkPhos-58 
TotBili-0.3
___ 12:00PM BLOOD Calcium-8.6 Phos-3.5 Mg-1.8
___ 04:37PM BLOOD Lactate-6.0*

===========================
Discharge
===========================
___ 05:20AM BLOOD WBC-3.6* RBC-4.51* Hgb-13.4* Hct-43.1 
MCV-95 MCH-29.6 MCHC-31.0 RDW-13.8 Plt ___
___ 05:20AM BLOOD Glucose-131* UreaN-23* Creat-0.9 Na-139 
K-3.7 Cl-95* HCO3-37* AnGap-11
___ 05:20AM BLOOD mthotrx-0.06

============================
Pertinent
============================
___ 04:37PM BLOOD Lactate-6.0*
___ 08:07AM BLOOD Lactate-3.5*
 
Brief Hospital Course:
___ is a ___ ___ speaking male with HIV, 
recently diagnosed high-grade CNS B cell lymphoma (brain stem) 
s/p brain biopsy, temporary external ventricular drain (since 
removed), on dexamethasone admit for high dose methotrexate.  

1. CNS Lymphoma: He presented for second induction dose of IV 
high-dose methtorexate. He started 24-hour urine collection for 
creatinine clearance the day before admission. He received his 
high-dose methotrexate. He tolerated it well. His urine was 
alkalinized. His IVF were increased to 200cc/hr. He was rescued 
with leucovorin. His dexamethasone was tapered to 2mg PO daily. 
He will return on ___ for the next round of high-dose 
methotrexate. His PPI and aspirin were held during his 
hospitalization.     

2. Anal HSV 2: He was on p.o acyclovir at 800 mg Q8H which he 
completed ___. His acyclovir prophylactic dose was changed 
to 400mg PO BID. 

3. Elevated Serum Lactate: This occurred during his hospital 
admission from ___ to ___. It remained elevated on 
admission to 6. The etiology was believed to be related to 
either his underlying lymphoma or ART therapy. He will follow up 
with his ___ PCP to determine if he needs to have his ART 
regimen changed.   

4. Hyponatremia: This is most likely SIADH given intracranial 
lymphoma. Has been chronic and stable but resolved during this 
hospitalization. 

5. HIV Disease: CD4 275, viral load undetectable in ___. Continued ART. ___ change per ___ PCP. 

6. Imbalance and Double Vision: This may be secondary to 
lymphoma. Remainder of neuro examine intact. He is placed on 
fall precautions.   

7. Coronary Artery Disease: He had a cardiac stent placed 
previously. He has sequela from his myocardial infarction in the 
past. But his repeat echocardiogram that was performed on 
___ reportedly showed apical hypokinesis but his ejection  
fraction remained at 55%. Continued lisinopril, metoprolol, 
pravastatin. Aspirin was briefly held during his MTX since it is 
acid. 

===========================
transitional issues
===========================
* Patient will return to ___ on ___
* Elevated lactate level
* He cannot travel outside the country until he achieves full 
remission
* Dexamethasone at 2mg PO daily
* MRI in 8 weeks
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Dexamethasone 4 mg PO DAILY 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Fish Oil (Omega 3) 1000 mg PO DAILY 
5. Lisinopril 5 mg PO DAILY 
6. Lopinavir-Ritonavir 2 TAB PO BID 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Omeprazole 40 mg PO DAILY 
9. Pravastatin 40 mg PO DAILY 
10. Docusate Sodium 100 mg PO BID prn constipation 
11. Senna 1 TAB PO BID prn constipation 
12. Acyclovir 200 mg PO DAILY
 
Discharge Medications:
1. Acyclovir 400 mg PO Q12H 
RX *acyclovir 400 mg 1 tablet(s) by mouth twice a day Disp #*60 
Capsule Refills:*0
2. Docusate Sodium 100 mg PO BID prn constipation 
3. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
4. Lisinopril 5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Senna 1 TAB PO BID prn constipation 
9. Aspirin 81 mg PO DAILY 
10. Fish Oil (Omega 3) 1000 mg PO DAILY 
11. Omeprazole 40 mg PO DAILY 
12. imaging
MRI Brain w&w/o contrast
ICD code: ___
diagnosis: CNS lymphoma
8 weeks from discharge - ___
13. Dexamethasone 2 mg PO DAILY 
RX *dexamethasone 2 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
1. CNS lymphoma

SECONDARY: 
2. Anal HSV infection
3. HIV
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you at the ___ 
___. You came into the hospital for high 
dose methotrexate for the lymphoma in your brain. You tolerated 
this well. 

We increased your acyclovir to 400mg, two times daily. We 
decreased your dexamethasone to 2mg daily. 

You can not travel outside of the country until you have 
acheived a complete remision of your lymphoma. You will need a 
follow up MRI in 8 weeks. 

Come back to ___ for your next methotrexate on ___! 
We look forward to seeing you! 

Thank you for choosing ___. 
 
Followup Instructions:
___